US04304770
2-Bromoethyl benzoate (27.5 g.) was added dropwise to a stirred mixture of ethyl 2-hydroxyimino-3-oxobutyrate (syn isomer) (15.7 g.), potassium carbonate (20.7 g.) and N,N-dimethylformamide (25 ml.) under ice cooling over 10 minutes, and stirred at ambient temperature for 4 hours. The resultant mixture was filtered and washed with acetone. The filtrate and washings were combined and concentrated in vacuo. After adding water (100 ml.) to the residue, the solution was extracted with methylene chloride three times. The extracts were washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo to give ethyl 2-(2-benzoyloxyethoxyimino)-3-oxobutyrate (syn isomer) (28 g.).

reactant | 2-Bromoethyl benzoate | 27.5 g | C(C1=CC=CC=C1)(=O)OCCBr | C9H9BrO2
reactant | ethyl 2-hydroxyimino-3-oxobutyrate | 15.7 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(2-benzoyloxyethoxyimino)-3-oxobutyrate | 28 g | C(C1=CC=CC=C1)(=O)OCCON=C(C(=O)OCC)C(C)=O | C15H17NO6
